US07687491B2
(22g) Methyl 1-({3-ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 1 (1f) using {3-ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol (0.19 g, 0.50 mmol) that was obtained in Example 22 (22f), carbon tetrabromide (0.33 g, 0.99 mmol), triphenylphosphine (0.26 g, 0.99 mmol), methyl 3-azetidinecarboxylate hydrochloride (0.11 g, 0.75 mmol), N,N-diisopropylethylamine (0.22 mL, 1.2 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (2:8 to 4:6) as the eluent to afford the title compound (0.17 g) in a yield of 72% as a pale yellow crystalline solid.

reactant | {3-ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol | 0.50 mmol, 0.19 g | C(C)C1=C(SC(=C1)C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)CO | C21H18N2O3S
reactant | carbon tetrabromide | 0.99 mmol, 0.33 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.99 mmol, 0.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-azetidinecarboxylate hydrochloride | 0.75 mmol, 0.11 g | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 1.2 mmol, 0.22 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 1-({3-ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate | C(C)C1=C(SC(=C1)C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)CN1CC(C1)C(=O)OC | C26H25N3O4S
